US08207164B2
b) ((R)-5-{3-[(5-Bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
To an at 0° C. stirred solution of 105 mg (0.325 mmol) (R)-[5-(3-amino-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester, 72 mg (0.357 mmol) 5-bromo-pyridine-2-carboxylic acid, 57 mg (0.422 mmol) HOAt and 82 mg (0.812 mmol) Et3N in 3 ml DCM were added 81 mg (0.422 mmol) EDC.HCl. After 18 h the mixture was diluted with EtOAc and washed with water, 5% aqueous NaHCO3 and brine. Chromatography on silica gel (hexane/EtOAc 3:1) gave the desired product as a colorless solid.

reactant | (R)-[5-(3-amino-phenyl)-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.325 mmol, 105 mg | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=CC(=CC=C1)N)=O | C16H22FN3O3
reactant | 5-bromo-pyridine-2-carboxylic acid | 0.357 mmol, 72 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | HOAt | 0.422 mmol, 57 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Et3N | 0.812 mmol, 82 mg | CCN(CC)CC | C6H15N
reactant | EDC.HCl | 0.422 mmol, 81 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ((R)-5-{3-[(5-Bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H24BrFN4O4
